US05036071
c) (R)-4-Bromo-isopropylidenebutane-1,2-diol
(R)-Isopropylidenebutane-1,2,4-triol (0.3 g, 2.05 mmol) and triphenylphosphine (0.63 g, 2.4 mmol) were dissolved in methylene chloride (5 ml) and cooled to 0° C. and N-bromosuccinimide (0.38 g, 2.16 mmol) was added in small portions with stirring. After additional 1 h of stirring at 0° C. hexane (15 ml) was added and the resulting precipitate was removed by filtration and washed twice with hexane (2×5 ml). The combined hexane solution was passed through a short column of silica gel (5 g). Elution with hexane (15 ml) gave after evaporation and distillation the title compound as a colourless oil (0.2 g, 0.96 mmol, 47%): b.p. 74°-76° C. at 2.7 kPa (20 mm Hg), nD20 =1.4630. {α}D20 =+27.7° (c=20, CHCl3).

reactant | (R)-Isopropylidenebutane-1,2,4-triol | 2.05 mmol, 0.3 g | C(C)(C)=C([C@@H](CCO)O)O | C7H14O3
reactant | triphenylphosphine | 2.4 mmol, 0.63 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 2.16 mmol, 0.38 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hexane | 15 ml | CCCCCC | C6H14
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (R)-4-Bromo-isopropylidenebutane-1,2-diol | 0.96 mmol, 0.2 g, 47% | BrCC[C@H](C(O)=C(C)C)O | C7H13BrO2
